.lib "sky130_fd_pr/models/sky130.lib.spice" tt

xm1 net-_m1-pad1_ va vout net-_m1-pad1_ sky130_fd_pr__pfet_01v8 W=1u L=0.5u M=1 
xm4 net-_m1-pad1_ vb vout net-_m1-pad1_ sky130_fd_pr__pfet_01v8 W=1u L=0.5u M=1
xm2 vout va net-_m2-pad3_ gnd sky130_fd_pr__nfet_01v8 W=.42u L=.5u M=1
xm3 net-_m2-pad3_ vb gnd gnd sky130_fd_pr__nfet_01v8 W=.42u L=.5u M=1
v3 net-_m1-pad1_ gnd  dc 5
* u2  vb plot_v1
* u1  va plot_v1
* u3  vout plot_v1
v1  va gnd pulse(0 5 0 0 0 17m 33m)
v2  vb gnd pulse(0 5 0 0 0 10m 20m)
.tran 0.1e-03 60e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout) v(va)+12 v(vb)+6
.endc 
.end
